US07977352B2
5.1 4-[5-(2-Methoxy-pyridin-4-yl)-[1,2,4]-triazolo[1,5-a]pyridin-8-ylamino]-N-pyridin-3-ylmethyl-benzamide
A suspension of 4-(5-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-N-pyridin-3-ylmethyl-benzamide (50 mg, 132 μmol), 2-methoxypyridin-4-boronic acid (40 mg, 260 μmol), Pd(PPh3)4 (46 mg, 40 μmol) and NaOtBu (51 mg, 530 μmol) in 1.2 mL of DMF/water (5:1, degassed) is degassed for 1 min in a sealed tube. The tube is sealed and the reaction mixture heated at 110° C. for five hours. After evaporation of the solvents, the residue is purified by flash chromatography (silica gel, dichloromethane/7N NH3 in methanol 97:3) affording the title compound (46 mg), which is isolated as a mixture containing 50% of product.

reactant | 4-(5-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-N-pyridin-3-ylmethyl-benzamide | 132 μmol, 50 mg | ClC1=CC=C(C=2N1N=CN2)NC2=CC=C(C(=O)NCC=1C=NC=CC1)C=C2 | C19H15ClN6O
reactant | 2-methoxypyridin-4-boronic acid | 260 μmol, 40 mg | COC1=NC=CC(=C1)B(O)O | C6H8BNO3
reactant | NaOtBu | 530 μmol, 51 mg | CC(C)(C)[O-].[Na+]
solvent | DMF water | 1.2 mL | CN(C)C=O.O
catalyst | Pd(PPh3)4 | 40 μmol, 46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[5-(2-Methoxy-pyridin-4-yl)-[1,2,4]-triazolo[1,5-a]pyridin-8-ylamino]-N-pyridin-3-ylmethyl-benzamide | 46 mg | COC1=NC=CC(=C1)C1=CC=C(C=2N1N=CN2)NC2=CC=C(C(=O)NCC=1C=NC=CC1)C=C2 | C25H21N7O2
